US04873236
5,11-Dihydro-11-[[[2-[3-[4-(dimethylamino)butyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 46 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[3-[4-(dimethylamino)butyl]-piperidin-l-yl]ethanamine in a yield of 53% of theory. Colourless crystals, m.p. 119°-120° C.

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[3-[4-(dimethylamino)butyl]-piperidin-l-yl]ethanamine | CN(CCCCC1CN(CCC1)CCN)C | C13H29N3
product | 5,11-Dihydro-11-[[[2-[3-[4-(dimethylamino)butyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 53% | CN(CCCCC1CN(CCC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)C | C26H36N6O2
